### PR TITLE
feat: pillai's conjecture

### PR DESCRIPTION
**Pull request by tristan-f-r**
follow-up of #140 from #104.

### CODE REVIEW

File: FormalConjectures/Wikipedia/Pillai.lean [hunk 1]
```diff
@@ -0,0 +1,33 @@
...
+-/
+
+/--
+For positive integers A, B, and C, there are only finitely many solutions (x, y, m, n) to the
+equation $Ax^n - By^m = C$ when (m, n) ≠ (2, 2).
+-/
+@[category research open, AMS 11]
+theorem pillais_conjecture (a b c : ℕ) (ha : 0 < a) (hb : 0 < b) (hc : 0 < c) :
+    { (x, y, m, n) : (ℕ × ℕ × ℕ × ℕ) | (m, n) ≠ (2, 2) ∧ A * x^n - B * y^m = C }.Finite
+      ↔ answer(sorry) := by
```
Comment (Paul-Lez) [inline FormalConjectures/Wikipedia/Pillai.lean]: I think we can remove the `answer(sorry)` tag here since the conjecture isn't stated as a question.
```suggestion
    { (x, y, m, n) : ℕ × ℕ × ℕ × ℕ | (m, n) ≠ (2, 2) ∧ A * x ^ n - B * y ^ m = C }.Finite := by
```

**Review by Paul-Lez — COMMENTED** [review]
Thanks for the PR! I see that this conjecture is from the Catalan Conjecture wiki page - would you mind moving the formalization to the `Catalan.lean` file? When possible we try to keep think things sorted by their source.

File: FormalConjectures/Wikipedia/Catalan.lean [hunk 2]
```diff
@@ -30,3 +30,12 @@ $x, y > 0$ is given by $a = 2$, $b = 3$, $x = 3$, and $y = 2$.
...
     (heq : x ^ a - y ^ b = 1) : a = 2 ∧ b = 3 ∧ x = 3 ∧ y = 2 := by
   sorry
+
+/--
+For positive integers A, B, and C, there are only finitely many solutions (x, y, m, n) to the
+equation $Ax^n - By^m = C$ when (m, n) ≠ (2, 2).
+-/
+@[category research open, AMS 11]
+theorem pillais_conjecture (a b c : ℕ) (ha : 0 < a) (hb : 0 < b) (hc : 0 < c)
+    : { (x, y, m, n) : (ℕ × ℕ × ℕ × ℕ) | (m, n) ≠ (2, 2) ∧ A * x^n - B * y^m = C }.Finite := by
```
Comment (mo271) [inline FormalConjectures/Wikipedia/Catalan.lean]:
```suggestion
    : { (x, y, m, n) : (ℕ × ℕ × ℕ × ℕ) | (m, n) ≠ (2, 2) ∧ a * x^n - b * y^m = c }.Finite := by
```

File: FormalConjectures/Wikipedia/Catalan.lean [hunk 3]
```diff
@@ -30,3 +30,12 @@ $x, y > 0$ is given by $a = 2$, $b = 3$, $x = 3$, and $y = 2$.
 theorem catalans_conjecture (a b x y : ℕ) (ha : 1 < a) (hb : 1 < b) (hx : 0 < x) (hy : 0 < y)
     (heq : x ^ a - y ^ b = 1) : a = 2 ∧ b = 3 ∧ x = 3 ∧ y = 2 := by
   sorry
+
+/--
+For positive integers A, B, and C, there are only finitely many solutions (x, y, m, n) to the
+equation $Ax^n - By^m = C$ when (m, n) ≠ (2, 2).
+-/
```
Comment (Paul-Lez) [inline FormalConjectures/Wikipedia/Catalan.lean]:
```suggestion
/--
For positive integers $A$, $B$, and $C$, there are only finitely many solutions $(x, y, m, n)$ to the
equation $Ax^n - By^m = C$ when $(m, n) ≠ (2, 2)$.
-/
```

Comment (mo271) [reply FormalConjectures/Wikipedia/Catalan.lean]: also for consistency here, perhaps better use small caps?

File: FormalConjectures/Wikipedia/Catalan.lean [hunk 4]
```diff
@@ -33,4 +33,13 @@ theorem catalans_conjecture (a b x y : ℕ) (ha : 1 < a) (hb : 1 < b) (hx : 0 <
     (heq : x ^ a - y ^ b = 1) : a = 2 ∧ b = 3 ∧ x = 3 ∧ y = 2 := by
   sorry
 
+/--
+For positive integers a, b, and c, there are only finitely many solutions (x, y, m, n) to the
+equation $Ax^n - By^m = C$ when (m, n) ≠ (2, 2).
```
Comment (mo271) [inline FormalConjectures/Wikipedia/Catalan.lean]:
```suggestion
equation $ax^n - ay^m = a$ when (m, n) ≠ (2, 2).
```

**Comment by mo271** [comment]
Thanks again!
